2194-11-29 06:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2194-11-28**] 11:41 PM
 ARTERIAL LINE - START [**2194-11-29**] 12:52 AM
   A-line was placed last night.  Patient was cooled via Arctic Sun
   Protocol starting at 2am.  He began shivering and was started on
   Vecuronium for paralysis.
   Morning ABG was 7.47/28/130/21.  Rate turned down from 16 to 14 due to
   this respiratory alkalosis.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 75 mcg/hour
   Vecuronium - 0.06 mg/Kg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-11-29**] 05:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-11-29**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 33.4
C (92.1
   HR: 60 (60 - 83) bpm
   BP: 141/77(102) {132/66(89) - 155/93(115)} mmHg
   RR: 19 (15 - 20) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
             Total In:
             94 mL
   PO:
             TF:
   IVF:
   94 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    240 mL
   Urine:
   240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -146 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Neuromusc Block
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 49.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/35/160/19/-5
   Ve: 10 L/min
   PaO2 / FiO2: 400
   Physical Examination
   GENERAL: Elderly male, intubated, sedated, paralyzed, unresponsive.  In
   C-colllar.
   HEENT: NCAT. PERRL (3mm to 2mm), in C-collar.
   CARDIAC: RRR, 2/6 SEM at base.  Unable to assess apex due to Artic
   protocol.  No rubs or gallops appreciated..
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominal bruits.
   EXTREMITIES: No c/c/e. No femoral bruits. Scar on left leg and arm.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   .
   Neuro:  Absenct corneal reflex, down going babinski, no clonus, opens
   eyes to name calling.
   Labs / Radiology
   148 K/uL
   12.2 g/dL
   187 mg/dL
   1.1 mg/dL
   19 mEq/L
   5.2 mEq/L
   28 mg/dL
   105 mEq/L
   135 mEq/L
   34.5 %
   13.4 K/uL
        [image002.jpg]
   CK 124
   CKMB 11
   MBI 8.9
   Trop 0.34
   INR 2.4
                            [**2194-11-28**]  11:11 PM
                            [**2194-11-29**]  01:54 AM
                            [**2194-11-29**]  02:16 AM
   WBC
   13.4
   Hct
   34.5
   Plt
   148
   Cr
   1.1
   TropT
   0.34
   TCO2
   21
   20
   Glucose
   187
   Other labs: PT / PTT / INR:24.2/29.5/2.4, CK / CKMB /
   Troponin-T:124/11/0.34, Lactic Acid:3.4 mmol/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Preliminary Echo read: severely depressed LV and RV function with
   biatrial enlargement.  MR and AS.
   Assessment and Plan
   76 y/o male w/ a hx of CAD s/p CABG, syncope s/p PPM, AF who presented
   with cardiac arrest.
   .
   # CARDIAC ARREST:  Differential includes ischemia vs. prior MI and scar
   tissue causing arrhythmia.  Based on strip review from pacer, appears
   to be polymorphic VT which is more likely ischemic.  No ST changes or
   reperfusion seen on ECG.  Patient has 11 year old graft which may no
   longer be patent.  Other etiologies (electrolyte disturbances,
   hypothermia, PE) less likely.  Limited neurologic function off sedation
   per ED, with absent corneal reflexes on exam, but did open eyes to name
   prior to paralytic use.  Artic sun cooling protocol initiated.
   - cooling patient for 18-24 hrs
   - paralytics to reduce shivering
   - fentanyl/midazolam sedation.
   - ventilatory support and wean as tolerated following cooling
   - neuro evaluation once cooling complete and sedation weaned
   # CORONARIES:  Patient with history of CAD. No ischemic changes on EKG,
   although limited to interpret with V pacing.  CK and troponin elevation
   likely from VT and shocks.  As discussed, polymorphic VT may be from
   ischemia.
   - full dose aspirin
   - Metoprolol 25mg PO TID
   - already anticoagulated on coumadin, holding heparin
   - will likely need cath on monday
   - checking lipid panel and hbga1c (pending)
   .
   # PUMP:  Final TTE pending; although preliminary read shows severely
   reduced EF.  Not clinically in failure.
   - Metoprolol and Lisinopril
   - f/u TTE read
   .
   # RHYTHM: PPM interrogations likely with VF.  Patient received 2 shocks
   from AED.  Patient currently in AF w/ v-pacing
   - if has evidence of neurologic recovery, EP c/s for ICD placement.
   - holding coumadin with possible catherization
   - EP consult to assess rhythm strip
   .
   # HTN:  Patient with history of hypertension.
   - Metoprolol, HCTZ, Lisinopril as per home doses
   .
   FEN: NPO for now, insulin per ICU care
   ACCESS: PIVs and A-line
   PROPHYLAXIS:
   -DVT ppx w/ sc heparin
   -Pain managment with fentanyl/versed
   -Bowel regimen
   CODE: Full
   DISPO: CCU

2194-11-30 06:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt. is currently cooled, started warming at 4am on [**11-30**].  Was
   normotensive yest. until received home doses of Lisinopril and HCTZ and
   then never recovered w/ BPs in 80-90s.  Was given total of 750cc
   boluses w/ mild improvement in SBPs.  Started on [**12-18**] maintenance IVF,
   50cc/hr as ECHO was done showing EF 15-20% w/ severe systolic and
   diastolic.  Had some desats into 50s reqiuring increasing PEEP
   and FiO2, but is weaned back to PEEP of 8 and FiO2 of 50%.  EP will see
   pt on Sunday for ICD eval.  SBPs dipped to 60s ON, started on Dopamine
   @ 5mcg/kg/min and received 250cc/IVF, no signs of pulm ed. on exam.
   SBP rebounded to 100s w/ MAP in high 60s to low 70s.  Discussed code
   status w/ family, FULL code until we know more about neurological
   status.
   This 7am pt. w/ hypotension to SBP in 50s as Temp increased to 36C.
   Dopamine increased to 20mcg and 1L NS given, with resultant rebound to
   90s.  Dopamine weaned to 9mcg by 8am
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Vecuronium - 0.06 mg/Kg/hour
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2194-11-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-11-30**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 33.4
C (92.1
   Tcurrent: 1.1
C (34
   HR: 80 (60 - 85) bpm
   BP: 111/54(72) {88/38(54) - 138/78(101)} mmHg
   RR: 17 (0 - 17) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
    CVP: 9 (7 - 11)mmHg
   HR in 60s until dopamine started, then in 80s
   PVCs and Bigeminy on Telemetry, frequent.
   Total In:
                                                                  2,430 mL
                                                                    839 mL
   PO:
                                 TF:
   IVF:
                                                                  2,190 mL
                                                                    839 mL
   Blood products:
   Total out:
                                                                  1,395 mL
                                                                    200 mL
   Urine:
                                                                  1,195 mL
                                                                    200 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,035 mL
                                                                    639 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 42.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.28/47/105/22/-4
   Ve: 8.3 L/min
   PaO2 / FiO2: 210
   Physical Examination
   GENERAL: Elderly male, intubated, sedated, paralyzed, unresponsive.  In
   C-colllar.
   HEENT: NCAT. PERRL (3mm to 2mm), in C-collar.
   CARDIAC: RRR, 2/6 SEM at base.  Unable to assess apex due to Artic
   protocol.  No rubs or gallops appreciated..
   LUNGS: No chest wall deformities, scoliosis or kyphosis. CTAB, no
   crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominal bruits.
   EXTREMITIES: No c/c/e. No femoral bruits. Scar on left leg and arm.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   .
   Neuro:  Not assessed this am due to continued sedation and still in
   process of warming, will be performed once warming is completed and
   sedation weaned.
   Labs / Radiology
   130 K/uL
   12.5 g/dL
   196 mg/dL
   1.0 mg/dL
   22 mEq/L
   5.0 mEq/L
   24 mg/dL
   102 mEq/L
   132 mEq/L
   34.2 %
   6.6 K/uL
        [image002.jpg]
                            [**2194-11-29**]  01:54 AM
                            [**2194-11-29**]  02:16 AM
                            [**2194-11-29**]  07:11 AM
                            [**2194-11-29**]  11:29 AM
                            [**2194-11-29**]  11:38 AM
                            [**2194-11-29**]  06:06 PM
                            [**2194-11-29**]  06:18 PM
                            [**2194-11-29**]  08:30 PM
                            [**2194-11-30**]  04:29 AM
                            [**2194-11-30**]  04:41 AM
   WBC
   13.4
   6.6
   Hct
   34.5
   34.2
   Plt
   148
   130
   Cr
   1.1
   1.0
   0.8
   1.0
   TropT
   0.34
   0.17
   0.10
   TCO2
   20
   21
   24
   23
   23
   23
   Glucose
   187
   98
   196
   Other labs: PT / PTT / INR:25.6/35.4/2.5, CK / CKMB /
   Troponin-T:268/15/0.10, Lactic Acid:1.7 mmol/L, Ca++:8.1 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   ECG
 afib, Inferoapical TwI.
   CXR
 no pulmonary edema or consolidation.  Pacer wires in place.
   Assessment and Plan
   76 y/o male w/ a hx of CAD s/p CABG, syncope s/p PPM, AF who presented
   with cardiac arrest.
   .
   # CARDIAC ARREST:  Differential includes ischemia vs. prior MI and scar
   tissue causing arrhythmia.  Given new TwI ischemic event higher on the
   list, but CKs peaked at 260s and troponins at 0.1, so picture still
   unclear.  Pt. underwent CPR, as confirmed per police records, but still
   unclear for how long he was w/o rhythm and CPR.  DDx for TwI could also
   represent memory Tw or anoxic brain injury.   Preliminary review from
   pacer, appears to be polymorphic VT, but this is difficult to tell from
   strip.  Patient has 11 year old graft which may no longer be patent.
   Other etiologies (electrolyte disturbances, hypothermia, PE) less
   likely.
   Will need Neuro assessment off sedation, including GCS @ 48hrs post
   arrest and 72hrs.  If no papillary/corneal reflexes and no motor
   response to pain, prognosis likely very poor.  If + pupils/corneal/pain
   response, may need neuro consult for further eval.  Dr. [**First Name (STitle) 285**],
   Neurology contact[**Name (NI) **].
   - Completed cooling 24 hrs and now warming, paralytics off.
   - Will monitor for hyperkalemia and tx w/ [**Last Name (LF) 2857**], [**First Name3 (LF) 116**] hold off on
   lasix given no clinical HF
   - continue fentanyl/midazolam for sedation, will need to wean to assess
   neuro status.
   - ventilatory support and wean as tolerated following warming
   - Patient will require neurological exam including GCS assessment post
   warming and at 72h
   - EEG at 72hrs and Neurology consultation prn.
   - Neuro exam to clear spine, if not possible, may need MRI of head (pt
   w/ hardware of unknown material in UE)
   # CORONARIES:  Patient with history of CAD. Now w/ possible ischemic
   changes on EKG, but CKs are relatively low thus may be [**1-18**] VT, CPR and
   shocks.   LDL 49 and Total Chol 102, HDL 30, at goal.  A1c 6.2, thus
   managed well from medical stand point.
   - full dose aspirin
   - holding BBk [**1-18**] hypotension.
   - already anticoagulated on coumadin, INR therapeutic, holding
   coumadin.
   - will likely need cath on Monday
   - F/u oncoronary anatomy w/ previous CABG records at [**Hospital1 **].
   .
   # PUMP:  showing EF 15-20% w/ severe systolic and diastolic
   dysfunction, likely CAD superimposed by toxic/metabolic causes.  Not
   clinically in failure.
   -          Holding bbk, ACEI
   -          IVF at maintenance and bolus to maintain BPs, but will
   monitor for clinical signs of HF.
   -          Contact Dr. [**Last Name (STitle) 2858**] to assess for baseline EF and HF.
   # RHYTHM: PPM interrogations likely with VF.  Patient received 2 shocks
   from AED.  Patient currently in AF w/ sinus conduction and TwI.  DDx
   includes ischemia, memory Tw, CNS anoxic injury.
   - if has evidence of neurologic recovery, ICD placement, EP is seeing
   - F/U EP consult recs.
   - holding coumadin with possible catherization
   .
   # HTN:  Patient with history of hypertension, currently hypotensive..
   - Holding Metoprolol, HCTZ, Lisinopril as per home doses
   .
   FEN: NPO for now, insulin per ICU care
   ACCESS: PIVs and A-line
   PROPHYLAXIS:
   -DVT ppx w/ sc heparin
   -Pain managment with fentanyl/versed
   -Bowel regimen
   CODE: Full, confirmed w/ family.
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2194-11-29**] 12:52 AM
   Multi Lumen - [**2194-11-29**] 09:49 PM
   18 Gauge - [**2194-11-30**] 01:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-12-01 05:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   76 y/o male w/ a hx of CAD s/p CABG, syncope s/p PPM, AF who presented
   with cardiac arrest now warmed after cooling on a ventilator.
   24 Hour Events:
   The patient was warmed yesterday am starting at 4 am and was completely
   normothermic (and off sedation) by midmorning.  The patient continued
   on a dopamine gtt of 9 mcg/kg/hr (started [**11-29**] at night given
   hypotension). TTE on [**11-29**] showed an EF of 15-20% with severe
   systolic and diastolic dysfunction "suggestive of a global process
   (toxic, metabolic, etc.) on a background of prior inferior myocardial
   infarction" w/ significant AS and Moderate MR.  [**Name13 (STitle) **] discuss possibly
   doing a cath today given the possibility of ischemic origin of his
   arrhythmia.  As the patient is still obtunded on the vent, EP eval
   deferred until Monday.  Will also consult neuro on Monday for
   evaluation as he will be approaching 72 hrs of his event by then.
   Discussed code status w/ family, FULL code until we know more about
   neurological status.  The patient currently opens his eyes to voice and
   spontaneously moves all extremities; however he does not follow
   commands.  The patient has had high residuals so his medications have
   been changed to PR/IV if possible.
   He began to wake up around 4 am and was fighting the ventilator and
   biting down on the tube so he was started on a propofol drip.  He
   spiked to 101.8 around 5am and became tachypneic with a respiratory
   alkalosis on ABG.  He was pancultured and given tylenol.  The propofol
   was increased due to his tachypnea and his MAPs started dropping to the
   high 40
s to low 50
s.  He was given two 250 cc boluses of NS.  He was
   started empirically on vanc and zosyn.  He was also started on levophed
   to augment his pressures as his dopamine is at 12 mcg/kg/min and he had
   a 7 beat run of nonsustained Vtach on tele.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Dopamine - 6 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2194-11-30**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2194-11-30**] 10:48 PM
   Pantoprazole (Protonix) - [**2194-11-30**] 10:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-1**] 05:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.8
C (101.8
   HR: 89 (68 - 93) bpm
   BP: 153/107(121) {55/38(45) - 153/107(121)} mmHg
   RR: 27 (9 - 32) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 15 (7 - 21)mmHg
   Total In:
                                                                  3,367 mL
                                                                    291 mL
   PO:
   TF:
   IVF:
                                                                  3,167 mL
                                                                    291 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                    400 mL
   Urine:
                                                                  1,260 mL
                                                                    400 mL
   NG:
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                  1,557 mL
                                                                   -109 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 600) mL
   RR (Set): 14
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 78
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 94%
   ABG: 7.44/29/95.[**Numeric Identifier **]/20/-2
   Ve: 14.3 L/min
   PaO2 / FiO2: 190
   Physical Examination
   GENERAL: Elderly male, intubated, sedated and unresponsive.  In
   C-colllar.
   HEENT: NCAT. PERRL,  2mm, in C-collar.
   CARDIAC: irregularly irregular, 2/6 SEM at the LLSB
   LUNGS: The patient is tachypneic and is intubated on the ventilator.
   Anteriorly he is CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: + hypoactive bowel sounds.  Soft, nondistended.
   EXTREMITIES: No c/c/e. No femoral bruits. Scar on left leg and arm.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Neuro:  The patient is currently on a propofol drip and is unresponsive
   to voice, withdraws from pain in all extremities, Babinski equivocal.
   Labs / Radiology
   124 K/uL
   10.7 g/dL
   146 mg/dL
   1.4 mg/dL
   20 mEq/L
   4.5 mEq/L
   29 mg/dL
   105 mEq/L
   134 mEq/L
   29.2 %
   4.5 K/uL
        [image002.jpg]
                            [**2194-11-30**]  04:29 AM
                            [**2194-11-30**]  04:41 AM
                            [**2194-11-30**]  07:54 AM
                            [**2194-11-30**]  07:57 AM
                            [**2194-11-30**]  08:02 AM
                            [**2194-11-30**]  12:44 PM
                            [**2194-11-30**]  04:17 PM
                            [**2194-11-30**]  08:46 PM
                            [**2194-12-1**]  04:03 AM
                            [**2194-12-1**]  04:20 AM
   WBC
   6.6
   7.3
   4.5
   Hct
   34.2
   31.1
   29.2
   Plt
   130
   140
   124
   Cr
   1.0
   1.0
   1.2
   1.4
   TCO2
   23
   23
   20
   21
   20
   Glucose
   196
   156
   146
   Other labs: PT / PTT / INR:25.6/35.4/2.5, CK / CKMB /
   Troponin-T:268/15/0.10, Lactic Acid:1.7 mmol/L, Albumin:3.8 g/dL,
   Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   76 y/o male w/ a hx of CAD s/p CABG, syncope s/p PPM, AF who presented
   with cardiac arrest now s/p cooling and rewarming.
   # CARDIAC ARREST:  The differential includes ischemia vs. prior MI and
   scar tissue causing arrhythmia.  Given new TwI ischemic event higher on
   the list, but CKs peaked at 260s and troponins at 0.1, so picture still
   unclear.  Pt. underwent CPR, as confirmed per police records, but still
   unclear for how long he was w/o rhythm and CPR.  DDx for TwI could also
   represent memory Tw or anoxic brain injury.   Preliminary review from
   pacer, appears to be polymorphic VT, but this is difficult to tell from
   strip.  Patient has 11 year old graft which may no longer be patent.
   Other etiologies (electrolyte disturbances, hypothermia, PE) less
   likely.
   Will need Neuro assessment off sedation, including GCS @ 48hrs post
   arrest and 72hrs.  If no papillary/corneal reflexes and no motor
   response to pain, prognosis likely very poor.  If + pupils/corneal/pain
   response, may need neuro consult for further eval.  Dr. [**First Name (STitle) 285**],
   Neurology contact[**Name (NI) **].
   - Wean propofol
   - Consult neurology today to assess his neurologic status and chance of
   recovery.
   - EEG at 72hrs
   - Ventilatory support and wean as tolerated following warming
   - Neuro exam to clear spine, if not possible, may need MRI of head (pt
   w/ hardware of unknown material in UE)
   # HYPOTENSION:  The patient became hypotensive the day of admission
   after receiving his home BP medications.  He responded initially to
   fluids, however his SBPs began to fall to the 60
s so he was started on
   dopamine.  Yesterday as he was warming he had another episode of
   hypotension to the 50
s which responded to increased dopamine.  His
   pressures remain dependent on dopamine.  The differential for his
   hypotension includes neurologic shock vs cardiogenic shock vs septic
   shock.
   -  Continue dopamine and levophed gtts as needed to keep his MAPs > 60.
   -  F/u on culture data to check for infection.
   -  Consider placing a Swan or doing a right heart cath while at cardiac
   cath to differentiate between cardiogenic shock and distributive shock.
   # FEVER:  The patient spiked to 101.8 this am and became tachypenic
   likely in response to his fever.  The differential for his fever
   includes infection, atelectasis, PE, or medication effect.  Most likely
   this represents infection.  Patient was pancultured this am and started
   empirically on vanc and zosyn given his fever and persistent
   hypotension.
   -  F/u BCx, UCx, UA, sputum Cx.
   -  Continue vanc and zosyn for broad coverage.
   -  His lines will need to be pulled and replaced.
   # ELEVATED COAGS:  The patient
s INR was elevated to4.6 this am (from
   2.5) and his Ptt is 64.5.  The patient is on coumadin at home, but has
   been off it since admitted.  Given his elevated coags and possible
   sepsis given his hypotension, this is concerning for DIC.
   -  Will check fibrinogen, D-Dimer, FDP, and recheck his coags.
   # ACUTE RENAL FAILURE:  The patient
s Cr increased to 1.4 (from 1.2
   yesterday), but had been as low as 0.8 during this admission.  His
   increased Cr is likely secondary to renal hypoperfusion given his
   multiple episodes of hypotension.
   -  Will continue pressors as above for BP support.
   -  Continue to trend Cr and avoid nephrotoxins.
   # CORONARIES:  The patient has a history of CAD. Now w/ possible
   ischemic changes on EKG, but CKs are relatively low thus may be [**1-18**] VT,
   CPR and shocks.   LDL 49 and Total Chol 102, HDL 30, at goal.  A1c 6.2,
   thus managed well from medical stand point.
   - Continue a full dose aspirin for now given that his arrest could be
   secondary to an ischemic event.
   - Continue holding his B-blocker given hypotension.
   - Consider a cardiac catheterization to evaluate for and treat ischemic
   disease which could be the underlying trigger for his cardiac arrest.
   - F/u on coronary anatomy w/ previous CABG records at [**Hospital1 **] (waiting for
   the office to open on Monday).
   # Congestive heart failure, likely acute on chronic:  He had a TTE here
   showing an EF of 15-20% w/ severe systolic and diastolic dysfunction,
   likely CAD superimposed by toxic/metabolic causes.  Not clinically in
   failure.
   - Holding his home B-blocker and ACEI given his hypotension
   - IVF at maintenance and bolus to maintain BPs, but will monitor for
   clinical signs of HF.
   - Contact Dr. [**Last Name (STitle) 2858**] to assess for baseline EF and HF.
   # RHYTHM: Patient is currently in atrial fibrillation and has a history
   of atrial fibrillation and is on coumadin as an outpatient.  His PPM
   interrogation shows that his cardiac arrest was preceded by VF.
   Patient received 2 shocks from AED.  Patient currently in AF w/ sinus
   conduction and TwI.  DDx includes ischemia, memory Tw, CNS anoxic
   injury.
   - if has evidence of neurologic recovery, ICD placement, EP is seeing
   - F/U EP consult recs.
   - holding coumadin given the possibility of cardiac catheterization
   # HTN:  Patient with history of hypertension, currently hypotensive and
   on a dopamine drip for pressure support.
   - Holding Metoprolol, HCTZ, Lisinopril (his home antihypertensives)
   FEN: NPO for now, insulin per ICU care
   ACCESS: PIVs and A-line
   PROPHYLAXIS:
   -DVT ppx w/ sc heparin
   -Pain management with tylenol
   -Bowel regimen
   CODE: Full, confirmed w/ family.
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2194-11-29**] 12:52 AM
   18 Gauge - [**2194-11-29**] 12:53 AM
   Multi Lumen - [**2194-11-29**] 09:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-12-02 05:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Fevers down during the day but then respiked to 101.6 at 5am.  Seen by
   neuro and EP.  EP will put in ICD prior to discharge depending on
   prognosis and clinical picture.  Neuro wanted repeat head and neck CT.
   Ordered but patient too unstable to transport.  Levophed weaned off,
   Dopa weaned to 9.  Reglan started for high residuals.  Nutrition c/s
   done.  Clamped ng tube at 4:30pm and no residuals.  DIC labs checked.
   Propofol was turned off for neuro exam at 2:30, turned back on at
   8:30pm for agitation.  While off propofol was following commands,
   opening eyes to voice.  Blood cx's positive for GNRs in [**1-20**] bottles (1
   set from groin line).  Attempted to wean from ventilator but RSBIs poor
   in the morning (RR up to 40) when PS weaned.  Now on 14/5.  Also having
   thick tan secretions.  Started on tube feeds.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2194-12-1**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-12-2**] 12:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Dopamine - 9 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-12-1**] 04:25 PM
   Pantoprazole (Protonix) - [**2194-12-1**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-2**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 80 (73 - 95) bpm
   BP: 109/44(61) {84/14(46) - 151/57(76)} mmHg
   RR: 32 (8 - 32) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 76 Inch
    CVP: 22 (11 - 29)mmHg
   Total In:
                                                                  4,689 mL
                                                                    658 mL
   PO:
   TF:
   IVF:
                                                                  4,619 mL
                                                                    658 mL
   Blood products:
   Total out:
                                                                  3,030 mL
                                                                    500 mL
   Urine:
                                                                  2,880 mL
                                                                    500 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,659 mL
                                                                    158 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (530 - 642) mL
   PS : 14 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.41/35/146/23/-1
   Ve: 12.8 L/min
   PaO2 / FiO2: 292
   Physical Examination
   GENERAL: Elderly male, intubated, sedated and unresponsive.  In
   C-colllar.  Following commands when weaned from sedation.
   HEENT: NCAT. PERRL,  2mm, in C-collar.
   CARDIAC: irregularly irregular, 2/6 SEM at the LLSB.
   LUNGS: The patient is tachypneic and is intubated on the ventilator.
   Anteriorly he has course breath sounds.  No wheezes or crackles.
   ABDOMEN: + hypoactive bowel sounds.  Soft, nondistended.
   EXTREMITIES: 2+ pitting edema in hands and legs. No femoral bruits.
   Scar on left leg and arm.  Extremities warm.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Neuro:  The patient is currently on a propofol drip and is unresponsive
   to voice, withdraws from pain in all extremities, Babinski equivocal.
   When weaned from propofol, turns head to voice and moves feet on
   command.
   Labs / Radiology
   104 K/uL
   9.6 g/dL
   146 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.9 mEq/L
   26 mg/dL
   107 mEq/L
   136 mEq/L
   26.2 %
   7.0 K/uL
        [image002.jpg]
   INR 2.9 (decreased from 4.6)
   PTT 69.9 (72.2 yesterday)
   Hapto 136
   d-dimer 671
   FDP 0-10
   Fibrinogen 847
   Cultures: [**12-1**] blood cultures: GNR in [**1-20**] bottles (from R femoral
   line)
   [**12-2**]: pending
   [**2194-12-1**] sputum: oropharyngeal flora
                            [**2194-11-30**]  12:44 PM
                            [**2194-11-30**]  04:17 PM
                            [**2194-11-30**]  08:46 PM
                            [**2194-12-1**]  04:03 AM
                            [**2194-12-1**]  04:20 AM
                            [**2194-12-1**]  07:01 AM
                            [**2194-12-1**]  09:53 PM
                            [**2194-12-1**]  10:03 PM
                            [**2194-12-2**]  04:23 AM
                            [**2194-12-2**]  04:40 AM
   WBC
   4.5
   6.9
   7.0
   Hct
   29.2
   28.2
   26.2
   Plt
   124
   119
   104
   Cr
   1.2
   1.4
   1.3
   TCO2
   20
   21
   20
   22
   24
   23
   Glucose
   156
   146
   146
   Other labs: PT / PTT / INR:28.4/69.9/2.9, CK / CKMB /
   Troponin-T:268/15/0.10, ALT / AST:15/23, Alk Phos / T Bili:45/1.7,
   D-dimer:671 ng/mL, Fibrinogen:847 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.8 g/dL, LDH:181 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:1.6
   mg/dL
   Assessment and Plan
   76 y/o male w/ a hx of CAD s/p CABG, syncope s/p PPM, AF who presented
   with cardiac arrest now s/p cooling and rewarming with continued
   hypotension concerning for sepsis.
   # Sepsis: Likely etiology of hypotension and fevers, now with GNRs in
   blood.  Although echo shows poor EF, extremities are warm,
   extravascular edema suggest distributive shock process.
   - will switch Dopamine to Levophed for better peripheral
   vasoconstriction to augment hypotension
   - treat with broad-spectrum antibiotics, Zosyn for 14 days after line
   pulled (likely pulled tomorrow); Vanco for 48 more hours until cultures
   negative.
   - will treat coagulopathy with 5mg Vitamin K today to bring INR down in
   order to replace the line
   - pt appears adequately fluid-resuscitated, will hold off on IVF today
   - continue surveillance cultures
   # Respiratory Failure: likely secondary to pulmonary edema and possible
   VAP given fevers and secretion.
   - continue to treat with broad spectrum antibiotics
   - will hold on diuresis today given hypotension and try to run even;
   consider lasix when BP improves
   # CARDIAC ARREST:  The differential includes ischemia vs. prior MI and
   scar tissue causing arrhythmia.  Neuro exam off propofol is reassuring;
   however prognosis still guarded.
   - continue neuro checks off sedation
   - Wean propofol as tolerated
   - f/u EEG read
   - head and c-spine CT today to evaluate for interval change (negative
   [**First Name8 (NamePattern2) 24**] [**Location (un) 103**] at [**Hospital 1373**] hospital)
   - appreciate neuro recs
   # ELEVATED COAGS:  Coags trending down but INR 2.9 today and PTT 69.
   Pt is on coumadin at home, but it has been held since he was admitted.
   DIC labs checked with elevated fibrinogen of 847, FDP 0-10, d-dimer
   slightly up at 621.  HIT is low on differential given short time course
   of thrombocytopenia
   -  vitamin K today; continue to monitor
   # ACUTE RENAL FAILURE:  Improving to 1.3 today.  His increased Cr is
   likely secondary to renal hypoperfusion given his multiple episodes of
   hypotension.
   -  Will continue pressors as above for BP support
   -  Continue to trend Cr and avoid nephrotoxins
   - renally-dose meds
   # CAD:  The patient has a history of CAD.  Per prior records, CABG in
   [**2183**] with LIMA to LAD, SVG to Diag and SVG to PDA.  Cath at that time
   showed 50% mid-LAD, 70% prox-LAD, 60% D1, 60% D3, 60% LCx, TO of OM3
   and TO of RCA.  Now w/ possible ischemic changes on EKG, but CKs are
   relatively low thus may be [**1-18**] VT, CPR and shocks.
   - Continue a full dose aspirin for now given that his arrest could be
   secondary to an ischemic event.
   - Continue holding his B-blocker given hypotension.
   - Consider a cardiac catheterization when sepsis is recovered to
   evaluate for and treat ischemic disease which could be the underlying
   trigger for his cardiac arrest.
   # Congestive heart failure, likely acute on chronic:  He had a TTE here
   showing an EF of 15-20% w/ severe systolic and diastolic dysfunction,
   likely CAD superimposed by toxic/metabolic causes.  Prior echo shows EF
   of 50% from [**2191**].
   - Holding his home B-blocker and ACEI given his hypotension
   - continue to monitor pulmonary edema and consider diuresis when off
   pressors
   # RHYTHM: Patient is currently in atrial fibrillation and has a history
   of atrial fibrillation and is on coumadin as an outpatient.  His PPM
   interrogation shows that his cardiac arrest was preceded by VF.
   Patient received 2 shocks from AED.
   - ICD placement pending evidence of neurologic recovery per EP
   - holding coumadin and heparin given elevated INR
   # HTN:  Patient with history of hypertension, currently hypotensive and
   on a dopamine drip for pressure support.
   - Holding Metoprolol, HCTZ, Lisinopril (his home antihypertensives)
   FEN: tube feeds and reglan
   ACCESS: PIVs, R femoral groin line (inserted [**11-29**])  and A-line
   (inserted [**11-28**])
   PROPHYLAXIS:
   -holding SC heparin due to coagulopathy, VD boots
   -Pain management with tylenol
   -Bowel regimen
   CODE: Full, confirmed w/ family.
   DISPO: CCU

2194-12-03 06:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No new recs/prognosis from Neuro.  CT head negative, CT neck mild DJD.
   Cleared spine clinically and removed neck brace.  Pt. examined while
   off propofol (see below), indicators for meaningful recovery present.
   Propofol back on for agitation.   Dopamine weaned off, Levophed on, w/
   MAPs > 60, but was down to high 40s w/ while changing from dopa to
   levo, weaning levophed o/n, now on 0.08.  UE edema increasing.
   Nutrition recs in.  DIC labs not supportive of DIC. but pt now w/
   bloody secretions, and increasing echymoses.  Thick, tan, blood tinged,
   mod-large amts of secretions.  Received Vit K 2.5mg.   Will need VAP tx
   14d.  Weaned O2 to 40%.  EP will see once MS improves.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2194-12-2**] 04:00 PM
   Vancomycin - [**2194-12-2**] 08:00 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-12-2**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-3**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100.1
   HR: 61 (60 - 86) bpm
   BP: 115/55(71) {97/39(56) - 151/60(84)} mmHg
   RR: 21 (10 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 76 Inch
    CVP:  10 (10 - 20)mmHg
   Total In:
                                                                  2,988 mL
                                                                    242 mL
   PO:
   TF:
                                                                    237 mL
                                                                    120 mL
   IVF:
                                                                  2,020 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                    310 mL
   Urine:
                                                                  2,260 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    728 mL
                                                                    -68 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 340 (340 - 618) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.43/36/121/24/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 303
   Physical Examination
   GENERAL: Elderly male, intubated, sedated and unresponsive.   Following
   commands when weaned from sedation.
   HEENT: NCAT. PERRL,  2mm
   CARDIAC: irregularly irregular, 2/6 SEM at the LLSB.
   LUNGS: The patient is tachypneic and is intubated on the ventilator.
   Anteriorly he has course breath sounds.  No wheezes or crackles.
   ABDOMEN: + hypoactive bowel sounds.  Soft, nondistended.
   EXTREMITIES: 2+ pitting edema in hands and legs. No femoral bruits.
   Scar on left leg and arm.  Extremities warm.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.    Echymotic
   lesions in UE.
   Neuro:  Off Propofol:  Opens/closes eyes to command, reactive pupils,
   intact corneal rflx, does not track, squeezes hand to
   command, withdraws flxr to pain, hyperreflexic UE>LE, R>L, all these
   are good prognostic indicators for meaningful recovery.
   Labs / Radiology
   131 K/uL
   9.0 g/dL
   183 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.5 mEq/L
   28 mg/dL
   105 mEq/L
   138 mEq/L
   25.1 %
   8.5 K/uL
        [image002.jpg]
                            [**2194-11-30**]  08:46 PM
                            [**2194-12-1**]  04:03 AM
                            [**2194-12-1**]  04:20 AM
                            [**2194-12-1**]  07:01 AM
                            [**2194-12-1**]  09:53 PM
                            [**2194-12-1**]  10:03 PM
                            [**2194-12-2**]  04:23 AM
                            [**2194-12-2**]  04:40 AM
                            [**2194-12-2**]  03:29 PM
                            [**2194-12-3**]  03:43 AM
   WBC
   4.5
   6.9
   7.0
   8.5
   Hct
   29.2
   28.2
   26.2
   25.1
   Plt
   124
   119
   104
   131
   Cr
   1.4
   1.3
   1.2
   TCO2
   21
   20
   22
   24
   23
   25
   Glucose
   146
   146
   183
   Other labs: PT / PTT / INR:20.1/36.4/1.9,
   Differential-Neuts:75.7 %, Lymph:16.7 %, Mono:4.7 %, Eos:2.3 %,
   Albumin:3.0 g/dL, LDH:181 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.1
   mg/dL
   Microboiology:
   Blood Cx's positive for Pseudomonas in [**1-20**] bottles (1 set from groin
   line [**12-1**]), susceptible to Zosyn, Cipro, Ceftaz.
   Peripheral BCx negative since [**12-1**] to date
   Sputum [**12-2**]: GPC in clusters/pairs 4+, 1+ GNR.
   CXR [**12-3**]:
   In comparison with the study of [**12-2**], the various support and
   monitoring devices remain in place. Enlargement of the cardiac
   silhouette is
   again seen. The opacification at the right base appears to be clearing.
   On
   the left, there is persistent opacification consistent with some
   combination
   of atelectasis, effusion and superimposed consolidation.
   Assessment and Plan
   76 y/o male w/ a hx of CAD s/p CABG, syncope s/p PPM, AF who presented
   with cardiac arrest now s/p cooling and rewarming with Pseudomonas
   sepsis and VAP.
   # Sepsis: Pseudomonas on BCx.  Sources include Femoral line, Pulmonary
   w/ VAP.  Extremities are warm and increasing in edema esp. in UEs.
   Pulse pressure 60 suggestive of elevated CO state.  All this is
   suggestive of a distributive shock process.  UOP > 45cc/hr, CVP 8-10
   with MAPs >60, parameters at goal for tx of septic shock.  Will remove
   line today.
   - On  Levophed, will wean as tolerated
   - Treating w/ Zosyn for Pseudomonas and Vancomycin for GPC in clusters
   suggestive of S. aureus.   ABx started on [**12-1**], but will treat today
   as day 1, as will pull femoral line.
   - 2 U FFP given INR 1.9 and will remove R Femoral line.
   - continue surveillance cultures from periphery
   # Respiratory Failure: likely secondary VAP given fevers, secretions
   CXR findings and Sputum Cx, suggestive of s. aureus, there is also some
   component of volume overload based on CXR.  Pt. on CPAP 10/5, is
   tachypneic w/ nl oxygenation and improved aA gradient.  Given continued
   secretions and tachypnea, will reassess for intubation later today or
   in AM, despite RSBI of 80.
   - continue to treat with broad spectrum antibiotics
   - will hold on diuresis today given hypotension, once off levaphed and
   BPs stable, may do gentle diuresis.
   - Will increase pressure support to increase Tv and reduce tachypnea
   and prevent fatigue.  Will recheck ABG, if CO2 above nl, will reassess
   and consider switching to CMV.  Goal to extubated tomorrow.
   # CARDIAC ARREST:  The differential includes ischemia vs. prior MI and
   scar tissue causing arrhythmia.  Neuro exam off propofol is indicative
   of overall good prognosis, based on studies, has 50% chance of
   meaningful recovery, however prognosis still guarded given current
   clinical picture.
   - continue neuro checks off sedation
   - Wean propofol as tolerated
   - f/u EEG read
   - appreciate neuro recs
   # ELEVATED COAGS:  Coags trending down INR 1.9 today and PTT 36.  Pt is
   on coumadin at home, but it has been held since he was admitted.  DIC
   labs not worrisome at this time and there is no clinical signs of
   bleeding at line sites etc.  Platelets improving.
   -          FFP today for line removal
   -          Will restart coumadin today after IJ line placed and femoral
   removed.
   # ACUTE RENAL FAILURE:  Stable, Cr 1.2 (1.3 yesterday).  Likely
   pre-renal [**1-18**] renal hypoperfusion w/ episodes of hypotension over last
   2 days.
   -  Continue to trend Cr and avoid nephrotoxins
   - renally-dose meds
   # CAD:  The patient has a history of CAD.  Per prior records, CABG in
   [**2183**] with LIMA to LAD, SVG to Diag and SVG to PDA.  Cath at that time
   showed 50% mid-LAD, 70% prox-LAD, 60% D1, 60% D3, 60% LCx, TO of OM3
   and TO of RCA.  Now w/ possible ischemic changes on EKG, but CKs are
   relatively low thus may be [**1-18**] VT, CPR and shocks.
   - Continue a full dose aspirin, PR dosed
   - Continue holding his B-blocker given hypotension.
   - Consider a cardiac catheterization when sepsis resolves to evaluate
   for and treat ischemic disease which could be the underlying trigger
   for his cardiac arrest.
   # Congestive heart failure, likely acute on chronic:  He had a TTE here
   showing an EF of 15-20% w/ severe systolic and diastolic dysfunction,
   likely CAD superimposed by toxic/metabolic causes.  Prior echo shows EF
   of 50% from [**2191**].  Slowly increasing volume status on exam, but unclear
   whether this is due to HF alone, given Alb of 3.0.  Once sepsis
   resolves, will consider gentle lasix to achieve euvolemia.
   - Holding his home B-blocker and ACEI given his hypotension
   # RHYTHM: Patient is currently in atrial fibrillation and has a history
   of atrial fibrillation and is on coumadin as an outpatient.  His PPM
   interrogation shows that his cardiac arrest was preceded by VF.
   Patient received 2 shocks from AED.  INR 1.9.   Goal [**1-19**].
   - ICD placement pending evidence of neurologic recovery per EP
   - holding coumadin for now, will restart after FFP and line
   placement/removal completed
   # HTN:  Patient with history of hypertension, currently hypotensive and
   on a dopamine drip for pressure support.
   - Holding Metoprolol, HCTZ, Lisinopril (his home antihypertensives)
   FEN: tube feeds and reglan
   ACCESS: PIVs, R femoral groin line (inserted [**11-29**])  and A-line
   (inserted [**11-28**])
   PROPHYLAXIS:
   -holding SC heparin due to coagulopathy, VD boots
   -Pain management with tylenol
   -Bowel regimen
   CODE: Full, confirmed w/ family.
   DISPO: CCU

2194-12-04 05:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 76 y/o male w/ a hx of CAD s/p CABG, syncope s/p PPM,
   AF who presented with cardiac arrest now warmed after cooling on a
   ventilator.
   24 Hour Events:
   On the ventilator.  His pressure support was increased to 15 this am
   and he was eventually changed over to AC with PEEP of 5 volume of 500
   RR 12 and FiO2 40% in the afternoon.  His INR was 1.9 so he was given 2
   units of FFP and a right IJ was placed, with difficulty.  His groin
   line was pulled and the cath tip was sent for cx.  No new recs from
   neuro.  EP had no new recs, will continue to follow.  Pt. off coumadin
   for now.
   This AM pt Tachypneic, decreased TV to 400, w/ minimal effect, gas
   unchanged (see below).  Pt. spiked temp to 101.6F at 8am.  Weaned off
   Levophed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2194-12-3**] 08:26 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-12-4**] 12:29 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-4**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 65 (60 - 73) bpm
   BP: 111/48(63) {91/44(58) - 147/87(90)} mmHg
   RR: 16 (7 - 31) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 76 Inch
    CVP: 10-12mmHg
   Tele:  60-70s
   Frequent PVCs, afib.
   Pacing ~60% of the time.
   Guiac: stool heme negative.
   Total In:
                                                                  2,682 mL
                                                                    497 mL
   PO:
                            TF:
                                                                    289 mL
                                                                    191 mL
   IVF:
                                                                  1,232 mL
                                                                    246 mL
   Blood products:
                                                                    561 mL
   Total out:
                                                                  1,780 mL
                                                                    365 mL
   Urine:
                                                                  1,780 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    902 mL
                                                                    132 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 585 (425 - 585) mL
   PS : 15 cmH2O
   RR (Set): 12., pt taking up to 28bpm
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 14 cmH2O
   SpO2: 96%
   ABG: 7.53/30/106/23/3 on TV 500
   ABG: 7.52/28/108 on TV 400, RR 25-30.
   Ve: 12.7 L/min
   PaO2 / FiO2: 265
   Physical Examination
   GENERAL: Elderly male, intubated, sedated and unresponsive.
   HEENT: NCAT. PERRL,  2.5mmL, 2mmR, slightly reactive
   CARDIAC: irregularly irregular, 2/6 SEM at the LLSB.
   LUNGS: The patient is tachypneic and is intubated on the ventilator.
   Laterally, CTA b/l, did not assess posteriorly.  Pt. breathing over the
   vent.
   ABDOMEN: + bowel sounds.  Soft, slightly distended. .
   EXTREMITIES: 2+ pitting edema in UEs, cool hands.  [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2959**], dry, trace
   edema.   No femoral bruits. Scar on left leg and arm.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.    Echymotic
   lesions in UE.
   Neuro:  Off Propofol:  Opens eyes to command, reactive pupils, No
   purposeful movements, does not follow commands, flx withdrawal to
   pain.
   Labs / Radiology
   144 K/uL
   9.2 g/dL
   195 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.0 mEq/L
   37 mg/dL
   102 mEq/L
   134 mEq/L
   23.9 %
   7.5 K/uL
        [image002.jpg]
                            [**2194-12-1**]  09:53 PM
                            [**2194-12-1**]  10:03 PM
                            [**2194-12-2**]  04:23 AM
                            [**2194-12-2**]  04:40 AM
                            [**2194-12-2**]  03:29 PM
                            [**2194-12-3**]  03:43 AM
                            [**2194-12-3**]  06:00 AM
                            [**2194-12-3**]  11:42 AM
                            [**2194-12-4**]  03:58 AM
                            [**2194-12-4**]  04:14 AM
   WBC
   6.9
   7.0
   8.5
   7.5
   Hct
   28.2
   26.2
   25.1
   23.9
   Plt
   119
   104
   131
   144
   Cr
   1.3
   1.2
   1.4
   TCO2
   24
   23
   25
   26
   24
   26
   Glucose
   146
   183
   195
   Other labs: PT / PTT / INR:17.4/31.2/1.6
   Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:191 IU/L,
    Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Micro:  BCx [**Date range (1) 2961**] pending from periphery
   BCx from femoral line, [**12-1**]
 P. aur, pan sensitive, tip Cx [**12-3**]-
   pending
   UCx
 negative
   Sputum Cx
 [**12-1**]
 GNR and Staph coag +, moderate, [**12-2**]
 4+GPCs,
   1+GNR
   CXR -
   Left lower lobe retrocardiac consolidation might represent combination
   of infection/atelectasis. Aspiration is another possibility.
   Improvement of the aeration of the perihilar areas and right lower
   lung, most
   likely due to resolution of pulmonary edema or aspiration.
   Assessment and Plan
   76 y/o male w/ a hx of CAD s/p CABG, syncope s/p PPM, AF who presented
   with cardiac arrest now s/p cooling and rewarming with Pseudomonas
   sepsis and VAP, now off pressors.
   # Sepsis: Pseudomonas on BCx.  Sources include Femoral line (pulled
   [**12-3**]) and Pulmonary w/ VAP.  Extremities are warm and increasing in
   edema esp. in UEs.  Pulse pressure 60 suggestive of elevated CO state.
   All this is suggestive of a distributive shock process.  UOP > 45cc/hr,
   CVP 10-12 with MAPs >60, parameters at goal for tx of septic shock.
   - On  Levophed, will wean as tolerated
   - Treating w/ Zosyn for Pseudomonas and Vancomycin for GPC in clusters
   suggestive of S. aureus.   ABx started on [**12-1**], but will treat today
   as day 1, as will pull femoral line.
   - 2 U FFP given INR 1.9 and will remove R Femoral line.
   - continue surveillance cultures from periphery
   # Respiratory Failure: likely secondary VAP given fevers, secretions
   CXR findings and Sputum Cx, suggestive of s. aureus, there is also some
   component of volume overload based on CXR.  Pt. on CPAP 10/5, is
   tachypneic w/ nl oxygenation and improved aA gradient.  Given continued
   secretions and tachypnea, will reassess for intubation later today or
   in AM, despite RSBI of 80.
   - continue to treat with broad spectrum antibiotics
   - will hold on diuresis today given hypotension, once off levaphed and
   BPs stable, may do gentle diuresis.
   - Will increase pressure support to increase Tv and reduce tachypnea
   and prevent fatigue.  Will recheck ABG, if CO2 above nl, will reassess
   and consider switching to CMV.  Goal to extubated tomorrow.
   # CARDIAC ARREST:  The differential includes ischemia vs. prior MI and
   scar tissue causing arrhythmia.  Neuro exam off propofol is indicative
   of overall good prognosis, based on studies, has 50% chance of
   meaningful recovery, however prognosis still guarded given current
   clinical picture.
   - continue neuro checks off sedation
   - Wean propofol as tolerated
   - f/u EEG read
   - appreciate neuro recs
   # ELEVATED COAGS:  Coags trending down INR 1.9 today and PTT 36.  Pt is
   on coumadin at home, but it has been held since he was admitted.  DIC
   labs not worrisome at this time and there is no clinical signs of
   bleeding at line sites etc.  Platelets improving.
   -          FFP today for line removal
   -          Will restart coumadin today after IJ line placed and femoral
   removed.
   # ACUTE RENAL FAILURE:  Stable, Cr 1.2 (1.3 yesterday).  Likely
   pre-renal [**1-18**] renal hypoperfusion w/ episodes of hypotension over last
   2 days.
   -  Continue to trend Cr and avoid nephrotoxins
   - renally-dose meds
   # CAD:  The patient has a history of CAD.  Per prior records, CABG in
   [**2183**] with LIMA to LAD, SVG to Diag and SVG to PDA.  Cath at that time
   showed 50% mid-LAD, 70% prox-LAD, 60% D1, 60% D3, 60% LCx, TO of OM3
   and TO of RCA.  Now w/ possible ischemic changes on EKG, but CKs are
   relatively low thus may be [**1-18**] VT, CPR and shocks.
   - Continue a full dose aspirin, PR dosed
   - Continue holding his B-blocker given hypotension.
   - Consider a cardiac catheterization when sepsis resolves to evaluate
   for and treat ischemic disease which could be the underlying trigger
   for his cardiac arrest.
   # Congestive heart failure, likely acute on chronic:  He had a TTE here
   showing an EF of 15-20% w/ severe systolic and diastolic dysfunction,
   likely CAD superimposed by toxic/metabolic causes.  Prior echo shows EF
   of 50% from [**2191**].  Slowly increasing volume status on exam, but unclear
   whether this is due to HF alone, given Alb of 3.0.  Once sepsis
   resolves, will consider gentle lasix to achieve euvolemia.
   - Holding his home B-blocker and ACEI given his hypotension
   # RHYTHM: Patient is currently in atrial fibrillation and has a history
   of atrial fibrillation and is on coumadin as an outpatient.  His PPM
   interrogation shows that his cardiac arrest was preceded by VF.
   Patient received 2 shocks from AED.  INR 1.9.   Goal [**1-19**].
   - ICD placement pending evidence of neurologic recovery per EP
   - holding coumadin for now, will restart after FFP and line
   placement/removal completed
   # HTN:  Patient with history of hypertension, currently hypotensive and
   on a dopamine drip for pressure support.
   - Holding Metoprolol, HCTZ, Lisinopril (his home antihypertensives)
   FEN: tube feeds and reglan
   ACCESS: PIVs, R femoral groin line (inserted [**11-29**])  and A-line
   (inserted [**11-28**])
   PROPHYLAXIS:
   -holding SC heparin due to coagulopathy, VD boots
   -Pain management with tylenol
   -Bowel regimen
   CODE: Full, confirmed w/ family.
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2194-11-29**] 12:52 AM
   Multi Lumen - [**2194-12-3**] 03:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-12-05 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 76 y/o male w/ a hx of CAD s/p CABG, syncope s/p PPM,
   AF who presented with cardiac arrest s/p 24 hours of cooling, now
   rewarmed.  Course complicated by pseudomonal line infection and PNA.
   24 Hour Events:
 FEVER - 101.6
F - [**2194-12-4**] 08:00 AM
   Neuro exam worse yesterday as pt was not following commands.  Levophed
   weaned in the morning yesterday but Propofol was increased due to
   tachypnea and respiratory alkalosis, which made him hypotensive and
   Levophed put back on.  Continued to by tachypneic and Propofol was
   switched to Fentanyl/Versed.  Levophed weaned down.  Tobramycin added
   to antibiotic regimen per ID recs.  Cultures growing MSSA from sputum
   and [**Year (4 digits) 467**].  Family meeting happened.  Started Amiodarone 400mg PO BID.
   Started IV Heparin and Coumadin 2mg qday (home dose) for afib.  Per EP,
   increased pacer to HR of 75.  Started Lantus in the evening.  Blood
   sugars in the 200s (got 12 units insulin over the day).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2194-12-4**] 09:30 AM
   Piperacillin - [**2194-12-4**] 08:48 PM
   Vancomycin - [**2194-12-4**] 10:48 PM
   Tobramycin - [**2194-12-5**] 12:49 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-5**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.2
C (99
   HR: 76 (63 - 81) bpm
   BP: 108/45(61) {85/39(53) - 145/64(87)} mmHg
   RR: 18 (18 - 35) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Height: 76 Inch
    CVP: 14 (12 - 16)mmHg
    Tele 75
 80 HR
    5-6 beat runs of NSVT
   Total In:
                                                                  3,315 mL
                                                                    654 mL
   PO:
                                   TF:
                                                                    860 mL
                                                                    327 mL
   IVF:
                                                                  2,125 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                  1,445 mL
                                                                    425 mL
   Urine:
                                                                  1,445 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,870 mL
                                                                    229 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.46/38/86.[**Numeric Identifier **]/24/2
   Ve: 9.3 L/min
   PaO2 / FiO2: 218
   Physical Examination
   GENERAL: Elderly male, intubated, sedated, opens eyes to command.
   HEENT: NCAT. PERRL,  2.5mmL, 2mmR, slightly reactive
   CARDIAC: irregularly irregular, 2/6 SEM at the LLSB.
   LUNGS: Intubated on the ventilator.  Laterally, fine crackles  b/l, did
   not assess posteriorly.  Pt. breathing over the vent.
   ABDOMEN: + bowel sounds.  Soft, slightly distended. .
   EXTREMITIES: 2+ pitting edema in UEs, warm hands.  [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2959**], dry, 1+
   edema.   No femoral bruits. Scar on left leg and arm.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.    Echymotic
   lesions in UE.
   Neuro:  On Midazolam/versed:  pens eyes to command, reactive pupils, No
   purposeful movements, does not follow commands, flx withdrawal to pain,
   no change from yesterday
   Labs / Radiology
   144 K/uL
   8.3 g/dL
   164 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.9 mEq/L
   36 mg/dL
   102 mEq/L
   133 mEq/L
   23.0 %
   7.4 K/uL
        [image002.jpg]
                            [**2194-12-3**]  06:00 AM
                            [**2194-12-3**]  11:42 AM
                            [**2194-12-4**]  03:58 AM
                            [**2194-12-4**]  04:14 AM
                            [**2194-12-4**]  09:01 AM
                            [**2194-12-4**]  01:18 PM
                            [**2194-12-4**]  04:37 PM
                            [**2194-12-4**]  06:09 PM
                            [**2194-12-5**]  04:55 AM
                            [**2194-12-5**]  05:20 AM
   WBC
   7.5
   7.4
   Hct
   23.9
   22.9
   23.0
   Plt
   144
   144
   Cr
   1.4
   1.3
   TCO2
   26
   24
   26
   24
   20
   21
   28
   Glucose
   195
   164
   Other labs: PT / PTT / INR:17.4/150.0/1.6, CK / CKMB /
   Troponin-T:268/15/0.10, ALT / AST:15/23, Alk Phos / T Bili:45/1.7,
   Differential-Neuts:75.7 %, Lymph:16.7 %, Mono:4.7 %, Eos:2.3 %,
   D-dimer:671 ng/mL, Fibrinogen:847 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.0 g/dL, LDH:191 IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:2.6
   mg/dL
   Sputum Cx showing MSSA now from [**12-1**], otherwise unchanged from [**12-4**]
   Assessment and Plan
   76 y/o male w/ a hx of CAD s/p CABG, syncope s/p PPM, AF who presented
   with cardiac arrest now s/p cooling and rewarming with Pseudomonas
   sepsis and VAP, now off pressors.
   # Sepsis: Pseudomonas on BCx.  Sources include Femoral line (pulled
   [**12-3**]) and Pulmonary w/ VAP.  Extremities are warm and increasing in
   edema esp. in UEs.  Pulse pressure 60 suggestive of elevated CO state.
   All this is suggestive of a distributive shock process.  UOP > 45cc/hr,
   CVP 14  with MAPs >60, parameters at goal for tx of septic shock.  UA
   negative.
   - Treating w/ Zosyn, Tobramycin for double coverage of Pseudomonas
   sepsis (and unclear [**Name (NI) 467**] in Sputum), Day 1 is [**12-3**], day of line
   removal, total 14d.
   - Change to Nafcillin IV for MSSA in putum.   ABx started on [**12-1**],
   total of 14d.
   - Daily surveillance Cx
   - Levophed prn for MAP > 60
   # Respiratory Failure: likely secondary VAP w/ Staph aureus coag +,
   [**Month/Year (2) 467**], w/ fevers, CXR findings and Sputum Cx. Pt. now also w/ Pulmonary
   edema on CXR and HF on exam.  Large Aa gradient, PaO2/FiO2
 217  thus
   [**Doctor Last Name 2**].  ABG improved, but continues to have resp alkalosis w/ metabolic
   alkalosis.  Pt. continues to be tachypneic, but much improved now on
   midazolam/versed sedation RR of 20. DDx CNS etiology in addition to
   sepsis
   - continue to treat with ABx as above
   - No diuresis given just off pressors  today, but may require prior to
   extubation trial.
   - Will increase sedation as tolerated by BPs to reduce respiratory
   drive
   - TV at 400, incr. RR 10 and increase PEEP to 10, and monitor for
   decreased CVP.
   - AM RSBI.
   # CARDIAC ARREST:  The differential includes ischemia vs. prior MI and
   scar tissue causing arrhythmia.  EEG consistent w/ encephalopathy
   (toxic/metabolic).  Neuro exam off propofol worsened, thus prognosis is
   guarded.    Per discussion w/ Neurology, no further imaging will be
   useful in determining further prognosis.
   - continue neuro checks off sedation
   - appreciate neuro recs
   # RHYTHM: Patient in atrial fibrillation and has a history of atrial
   fibrillation and is on coumadin as an outpatient.  His PPM
   interrogation showed that his cardiac arrest was preceded by VF.
   Patient received 2 shocks from AED.  INR 1.7.   Goal [**1-19**].
   - Continue  Amiodarone 400mg [**Hospital1 **] for rhythm control and possible
   cardioversion on Monday to augment filling, baseline TFTs wnl.
   - ICD placement to be evaluated
   - Continue coumadin now and bridge w/ heparin
   # ACUTE RENAL FAILURE:  Fluctuating, Cr 1.3 (1.4 yesterday).  Likely
   pre-renal [**1-18**] renal hypoperfusion w/ episodes of hypotension over last
   3 days, but may be progressing to ATN, no gran. Casts on UA
   microscopy.
   -  Continue to trend Cr and avoid nephrotoxins
   - renally-dose meds
   # CAD:  The patient has a history of CAD.  Per prior records, CABG in
   [**2183**] with LIMA to LAD, SVG to Diag and SVG to PDA.  Cath at that time
   showed 50% mid-LAD, 70% prox-LAD, 60% D1, 60% D3, 60% LCx, TO of OM3
   and TO of RCA.  Now w/ possible ischemic changes on EKG, but CKs are
   relatively low thus may be [**1-18**] VT, CPR and shocks.
   - Continue a full dose aspirin
   - Continue holding his B-blocker given hypotension.
   - Consider a cardiac catheterization when sepsis resolves to evaluate
   for and treat ischemic disease which could be the underlying trigger
   for his cardiac arrest.
   # Congestive heart failure, likely acute on chronic.  Now much more
   volume overloaded on exam, LOS +7.6L.  TTE here showing an EF of 15-20%
   w/ severe systolic and diastolic dysfunction, likely CAD superimposed
   by toxic/metabolic causes.  Prior echo shows EF of 50% from [**2191**] and
   reported 2mo PTA of 25%.  Increasing volume status on exam.  [**Month (only) 11**]
   require some lasix prior to extubation trial and if BPs tolerate.  Na
   dropping.
   -          Holding his home B-blocker and ACEI given his hypotension.
   -          Minimize volume load (e.g. free water in TF, will discuss w/
   pharmacy)
   # Anemia
 likely dilutional, but also w/ elevated MCV.  HCT low, but
   stable.  Guiacs negative to date.  No evidence of hemolysis on exam or
   labs.  No evidence of large echymoses.  Will consider intraabdominal/RP
   source eval if continues to drop.   Likely hemodilutional give volume
   expansion, at baseline also ACD given Fe studies results.
   -          QD HCT
   # Hyperglycemia
 likely sepsis related, pt w/ no hx of DM.  Elevated
   BGs in 200s.
   -          Increase Lantus w/ RISS
   FEN: tube feeds
   ACCESS: PIVs, A-line (inserted [**11-28**]), RIJ ([**2194-12-3**])
   PROPHYLAXIS:
   -heparin drip
   -Pain management with tylenol
   -Bowel regimen
   FAMILY/SOCIAL:
   Discussed with family yesterday the events to date, the goals treatment
   in the next few days and that patient has deteriorated since last two
   days in setting of sepsis.  Discussed that prognosis remains guarded.
   Family appears to understand  the events to date, the care provided and
   immediate goals.  Will be updating family on daily basis.
   .
   CODE: Full, confirmed w/ family.
   DISPO: CCU

2194-12-06 05:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Cardiac arrest, sepsis
   24 Hour Events:
   Neuro exam off sedation today much improved, pt following multiple
   commands, opening/closing eyes, responding to questions in yes/no
   manner appropirately.  Levophed weaned, then restarted given
   hypotension in AM.  Currently on 0.06.  Tachypnea improved to 20s even
   off sedation.  Increased PEEP to 10cm.  Sputum GPC was noted to be
   MSSA, thus switched vancomycin to nafcillin IV.  [** 467**] in sputum
   are ENTEROBACTERIACEAE, sensitive to zosyn and tobramycin (will touch
   base w/ ID in AM re: pairing down ABx).  Pt. continues to be positive >
   1L per day with increasing periphearal edema.  Discussed w/ pharmacy
   re: more concentrated ABx, this is not possible.  Reduced free water
   flushes w/ feeds and stopped TF at 10pm due to 1.5L positive.   Family
   updated on clinicial status and guarded prognosis.  Blood sugars in the
   200s (got 12 units insulin over the day).  Will attempt extubation in
   AM given RSBI of 68.  Will likely undergo cardioversion on Monday after
   Amio loading to help w/ atrial kick.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2194-12-5**] 08:00 AM
   Piperacillin - [**2194-12-5**] 04:00 PM
   Tobramycin - [**2194-12-5**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-12-6**] 12:00 AM
   Nafcillin - [**2194-12-6**] 04:12 AM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-12-5**] 08:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-6**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.8
C (98.2
   HR: 77 (75 - 82) bpm
   BP: 113/50(70) {93/39(54) - 123/106(114)} mmHg
   RR: 18 (18 - 26) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Height: 76 Inch
    CVP: 8 (8 - 10)mmHg
   Total In:
                                                                  3,140 mL
                                                                    474 mL
   PO:
   TF:
                                                                  1,420 mL
   IVF:
                                                                  1,660 mL
                                                                    474 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                    430 mL
   Urine:
                                                                  1,855 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,285 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 445 (445 - 445) mL
   RR (Set): 12
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.46/35/105//1
   Ve: 12.6 L/min
   PaO2 / FiO2: 263
   Physical Examination
   GENERAL: Elderly male, intubated, sedated, opens eyes to command.
   HEENT: NCAT. PERRL,  2.5mmL, 2mmR, slightly reactive
   CARDIAC: irregularly irregular, 2/6 SEM at the LLSB.
   LUNGS: Intubated on the ventilator.  Laterally, fine crackles  b/l, did
   not assess posteriorly.  Pt. breathing over the vent.
   ABDOMEN: + bowel sounds.  Soft, slightly distended. .
   EXTREMITIES: 2+ pitting edema in UEs, warm hands.  [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2959**], dry, 1+
   edema.   No femoral bruits. Scar on left leg and arm.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.    Echymotic
   lesions in UE.
   Neuro:  On Midazolam/versed:  pens eyes to command, reactive pupils, No
   purposeful movements, does not follow commands, flx withdrawal to pain,
   no change from yesterday
   Labs / Radiology
   167 K/uL
   8.5 g/dL
   164 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.9 mEq/L
   36 mg/dL
   102 mEq/L
   133 mEq/L
   23.0 %
   10.1 K/uL
        [image002.jpg]
                            [**2194-12-4**]  09:01 AM
                            [**2194-12-4**]  01:18 PM
                            [**2194-12-4**]  04:37 PM
                            [**2194-12-4**]  06:09 PM
                            [**2194-12-5**]  04:55 AM
                            [**2194-12-5**]  05:20 AM
                            [**2194-12-5**]  12:42 PM
                            [**2194-12-6**]  12:08 AM
                            [**2194-12-6**]  05:03 AM
                            [**2194-12-6**]  05:29 AM
   WBC
   7.4
   10.1
   Hct
   22.9
   23.0
   23.0
   Plt
   144
   167
   Cr
   1.3
   TCO2
   24
   20
   21
   28
   26
   27
   26
   Glucose
   164
   Other labs: PT / PTT / INR:18.1/93.4/1.7, CK / CKMB /
   Troponin-T:268/15/0.10, ALT / AST:15/23, Alk Phos / T Bili:45/1.7,
   Differential-Neuts:75.7 %, Lymph:16.7 %, Mono:4.7 %, Eos:2.3 %,
   D-dimer:671 ng/mL, Fibrinogen:847 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:3.0 g/dL, LDH:191 IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   76 y/o male w/ a hx of CAD s/p CABG, syncope s/p PPM, AF who presented
   with cardiac arrest now s/p cooling and rewarming with Pseudomonas
   sepsis and VAP, now off pressors.
   # Sepsis: Pseudomonas on BCx.  Sources include Femoral line (pulled
   [**12-3**]) and Pulmonary w/ VAP.  Extremities are warm and increasing in
   edema esp. in UEs.  Pulse pressure 60 suggestive of elevated CO state.
   All this is suggestive of a distributive shock process.  UOP > 45cc/hr,
   CVP 14  with MAPs >60, parameters at goal for tx of septic shock.  UA
   negative.
   - Treating w/ Zosyn, Tobramycin for double coverage of Pseudomonas
   sepsis (and unclear [**Name (NI) 467**] in Sputum), Day 1 is [**12-3**], day of line
   removal, total 14d.
   - Change to Nafcillin IV for MSSA in putum.   ABx started on [**12-1**],
   total of 14d.
   - Daily surveillance Cx
   - Levophed prn for MAP > 60
   # Respiratory Failure: likely secondary VAP w/ Staph aureus coag +,
   [**Month/Year (2) 467**], w/ fevers, CXR findings and Sputum Cx. Pt. now also w/ Pulmonary
   edema on CXR and HF on exam.  Large Aa gradient, PaO2/FiO2
 217  thus
   [**Doctor Last Name 2**].  ABG improved, but continues to have resp alkalosis w/ metabolic
   alkalosis.  Pt. continues to be tachypneic, but much improved now on
   midazolam/versed sedation RR of 20. DDx CNS etiology in addition to
   sepsis
   - continue to treat with ABx as above
   - No diuresis given just off pressors  today, but may require prior to
   extubation trial.
   - Will increase sedation as tolerated by BPs to reduce respiratory
   drive
   - TV at 400, incr. RR 10 and increase PEEP to 10, and monitor for
   decreased CVP.
   - AM RSBI.
   # CARDIAC ARREST:  The differential includes ischemia vs. prior MI and
   scar tissue causing arrhythmia.  EEG consistent w/ encephalopathy
   (toxic/metabolic).  Neuro exam off propofol worsened, thus prognosis is
   guarded.    Per discussion w/ Neurology, no further imaging will be
   useful in determining further prognosis.
   - continue neuro checks off sedation
   - appreciate neuro recs
   # RHYTHM: Patient in atrial fibrillation and has a history of atrial
   fibrillation and is on coumadin as an outpatient.  His PPM
   interrogation showed that his cardiac arrest was preceded by VF.
   Patient received 2 shocks from AED.  INR 1.7.   Goal [**1-19**].
   - Continue  Amiodarone 400mg [**Hospital1 **] for rhythm control and possible
   cardioversion on Monday to augment filling, baseline TFTs wnl.
   - ICD placement to be evaluated
   - Continue coumadin now and bridge w/ heparin
   # ACUTE RENAL FAILURE:  Fluctuating, Cr 1.3 (1.4 yesterday).  Likely
   pre-renal [**1-18**] renal hypoperfusion w/ episodes of hypotension over last
   3 days, but may be progressing to ATN, no gran. Casts on UA
   microscopy.
   -  Continue to trend Cr and avoid nephrotoxins
   - renally-dose meds
   # CAD:  The patient has a history of CAD.  Per prior records, CABG in
   [**2183**] with LIMA to LAD, SVG to Diag and SVG to PDA.  Cath at that time
   showed 50% mid-LAD, 70% prox-LAD, 60% D1, 60% D3, 60% LCx, TO of OM3
   and TO of RCA.  Now w/ possible ischemic changes on EKG, but CKs are
   relatively low thus may be [**1-18**] VT, CPR and shocks.
   - Continue a full dose aspirin
   - Continue holding his B-blocker given hypotension.
   - Consider a cardiac catheterization when sepsis resolves to evaluate
   for and treat ischemic disease which could be the underlying trigger
   for his cardiac arrest.
   # Congestive heart failure, likely acute on chronic.  Now much more
   volume overloaded on exam, LOS +7.6L.  TTE here showing an EF of 15-20%
   w/ severe systolic and diastolic dysfunction, likely CAD superimposed
   by toxic/metabolic causes.  Prior echo shows EF of 50% from [**2191**] and
   reported 2mo PTA of 25%.  Increasing volume status on exam.  [**Month (only) 11**]
   require some lasix prior to extubation trial and if BPs tolerate.  Na
   dropping.
   -          Holding his home B-blocker and ACEI given his hypotension.
   -          Minimize volume load (e.g. free water in TF, will discuss w/
   pharmacy)
   # Anemia
 likely dilutional, but also w/ elevated MCV.  HCT low, but
   stable.  Guiacs negative to date.  No evidence of hemolysis on exam or
   labs.  No evidence of large echymoses.  Will consider intraabdominal/RP
   source eval if continues to drop.   Likely hemodilutional give volume
   expansion, at baseline also ACD given Fe studies results.
   -          QD HCT
   # Hyperglycemia
 likely sepsis related, pt w/ no hx of DM.  Elevated
   BGs in 200s.
   -          Increase Lantus w/ RISS
   FEN: tube feeds
   ACCESS: PIVs, A-line (inserted [**11-28**]), RIJ ([**2194-12-3**])
   PROPHYLAXIS:
   -heparin drip
   -Pain management with tylenol
   -Bowel regimen
   FAMILY/SOCIAL:
   Discussed with family yesterday the events to date, the goals treatment
   in the next few days and that patient has deteriorated since last two
   days in setting of sepsis.  Discussed that prognosis remains guarded.
   Family appears to understand  the events to date, the care provided and
   immediate goals.  Will be updating family on daily basis.
   .
   CODE: Full, confirmed w/ family.
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2194-11-29**] 12:52 AM
   Multi Lumen - [**2194-12-3**] 03:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-12-07 05:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 76 y/o male w/ a hx of CAD s/p CABG, syncope s/p PPM,
   AF who presented with cardiac arrest now warmed after cooling now s/p
   extubation.
   24 Hour Events:
   The patient was extubated Saturday morning and levophed was weaned off
   by midmorning.  PT/OT and speech and swallow were consulted.  ID was
   curbsided for antibiotic management and recommended stopping zosyn and
   tobramycin and treating his pansensitive psudomonas bactermia for 14
   days with ciprofloxacin from when the line was pulled ([**12-4**]) and for
   the enterobacteriacae in his sputum, and 14 days of nafcillin for the
   MSSA in his sputum.  It is planned that he will undergo cardioversion
   on Monday.  His A-line was removed as he is now off levophed.
   This am the patient denies chest pain, SOB, or other pain.  Had been
   having a lot of stool, but is formed and not loose.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2194-12-5**] 08:00 AM
   Piperacillin - [**2194-12-5**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-12-6**] 08:00 AM
   Tobramycin - [**2194-12-6**] 10:00 AM
   Ciprofloxacin - [**2194-12-6**] 10:00 PM
   Nafcillin - [**2194-12-7**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-12-6**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-7**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.7
C (96.2
   HR: 75 (75 - 86) bpm
   BP: 74/19(32) {74/19(32) - 137/92(96)} mmHg
   RR: 22 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
   Height: 76 Inch
    CVP: 12 (12 - 25)mmHg
   Total In:
                                                                  2,001 mL
                                                                    320 mL
   PO:
   TF:
   IVF:
                                                                  2,001 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    280 mL
   Urine:
                                                                  2,340 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -339 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 685 (685 - 685) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 0 cmH2O
   FiO2: 0%
   RSBI: 45
   PIP: 6 cmH2O
   SpO2: 97%
   ABG: 7.44/39/129//2
   Ve: 10.9 L/min
   PaO2 / FiO2: 322
   Physical Examination
   GENERAL: Elderly male lying in bed in NAD.
   HEENT: NCAT. PERRL,  2.5mmL, 2mmR, slightly reactive. OP clear
   CARDIAC: RRR, 2/6 SEM at the LLSB.
   LUNGS: Crackles at the bases b/l with a few expiratory wheezes present.
   ABDOMEN: + bowel sounds.  Soft, NTND
   EXTREMITIES: 2+ pitting edema in UEs, warm hands.  Legs warm, dry, 1+
   edema.  . Scar on left leg and arm.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.    Echymotic
   lesions in his upper extremities.
   Neuro: Alert and oriented to person, time, and partially to place.
   CNII-XII grossly intact.  Sensation to light touch intact throughout.
   4+/5 strength in his upper and lower extremities throughout.
   Labs / Radiology
   167 K/uL
   8.5 g/dL
   178 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.2 mEq/L
   31 mg/dL
   100 mEq/L
   134 mEq/L
   23.0 %
   10.1 K/uL
                            [**2194-12-4**]  04:37 PM
                            [**2194-12-4**]  06:09 PM
                            [**2194-12-5**]  04:55 AM
                            [**2194-12-5**]  05:20 AM
                            [**2194-12-5**]  12:42 PM
                            [**2194-12-6**]  12:08 AM
                            [**2194-12-6**]  05:03 AM
                            [**2194-12-6**]  05:29 AM
                            [**2194-12-6**]  08:09 AM
                            [**2194-12-6**]  08:50 AM
   WBC
   7.4
   10.1
   Hct
   22.9
   23.0
   23.0
   Plt
   144
   167
   Cr
   1.3
   1.2
   TCO2
   21
   28
   26
   27
   26
   26
   27
   Glucose
   164
   178
   Other labs: PT / PTT / INR:18.9/84.0/1.7, CK / CKMB /
   Troponin-T:268/15/0.10, ALT / AST:15/23, Alk Phos / T Bili:45/1.7,
   Differential-Neuts:75.7 %, Lymph:16.7 %, Mono:4.7 %, Eos:2.3 %,
   D-dimer:671 ng/mL, Fibrinogen:847 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:3.0 g/dL, LDH:191 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   76 y/o male w/ a hx of CAD s/p CABG, syncope s/p PPM, AF who presented
   with cardiac arrest now s/p cooling and rewarming  and s/p extubation
   with Pseudomonas sepsis and VAP now off pressors.
   # Sepsis:  Pseudomonas on BCx and MSSA in sputum.  Sources include
   Femoral line (pulled [**12-3**]) and Pulmonary w/ VAP.  He was weaned off
   pressors yesterday and his antibiotics were narrowed from tobramycin
   and zosyn to cipro.  Surveillance BCx have been NGTD
   - Continue Nafcillin for MSSA and Cipro for GNRs for total treatment of
   14d, day one [**12-3**].
   - Will touch base with ID to check if nafcillin can be changed to a po
   medication.
   # Congestive heart failure, likely acute on chronic.  Now much more
   volume overloaded on exam, LOS +8.4L.  TTE here showing an EF of 15-20%
   w/ severe systolic and diastolic dysfunction, likely CAD superimposed
   by toxic/metabolic causes.  Prior echo shows EF of 50% from [**2191**] and
   reported 2mo PTA of 25%.  Volume overloaded on exam.  Now that he is
   off pressors and his SBP have been stable, can start diuresis.
   - Will start aldactone 25 mg daily for diuresis (due to his persistent
   hypokalemia) in conjunction with one-time doses of IV lasix prn for a
   goal of 1.5 to 2 L negative/day.
   - Restart Metoprolol 6.25 mg tid.
   - Holding his ACEI given his ARF and recent hypotension.
   - Patient will need a repeat TTE in a few weeks to reassess his cardiac
   function once out of the acute setting of recent cardiac arrest as some
   of his systolic dysfunction is likely from cardiac stunning.
   # Anemia
 The patient
s Hct continues to slowly trend downwards (is
   22.4 today) Likely a combination of dilutional, acute illnees, and
   phlebotomy.   Guiacs negative to date.  No evidence of hemolysis on
   exam or labs.  No evidence of large echymoses.  Will consider
   intraabdominal/RP source eval if continues to drop.   Likely
   hemodilutional give volume expansion, at baseline also ACD given Fe
   studies results.
   - Will recheck hemolysis labs.
   - Qday Hct to minimize phlebotomy unless he appears to be clinically
   bleeding.
   - Will hold off transfusion for now as he is not currently ischemic and
   a transfusion would give additional volume while he is already volume
   overloaded with a low EF.
   # Respiratory Failure: Resolving.  The patient was successfully
   extubated yesterday morning.  He continues on 5 L NC.
   - Continue to treat his VAP with ABx as above.
   - Diuresis as above with IV lasix and aldactone for a goal of 1.5 to 2
   L negative.
   # CARDIAC ARREST:  The differential includes ischemia vs. prior MI and
   scar tissue causing arrhythmia.  EEG consistent w/ encephalopathy
   (toxic/metabolic).  Neuro exam significantly improved.
   - Appreciate neuro recs
   - PT/OT
   - Will likely be a candidate for ICD if EF continues to be depressed
   - Will hold off on catheterization for now as this is unlikely to have
   been ischemic in origin.
   # RHYTHM: Patient now V-paced on tele, but had been in atrial fib. and
   has a history of atrial fibrillation and is on coumadin as an
   outpatient.  His PPM interrogation showed that his cardiac arrest was
   preceded by VF.  Patient received 2 shocks from AED.  INR 3.1.   Goal
   [**1-19**].
   - Continue Amiodarone 400mg [**Hospital1 **] for rhythm control and cardioversion on
   Monday to augment filling.
   - ICD placement to be evaluated
   - Continue coumadin; heparin gtt stopped as he is therapeutic on
   coumadin.
   # ACUTE RENAL FAILURE:  Fluctuating, Cr 1.3 (1.3 yesterday).  Likely
   pre-renal [**1-18**] renal hypoperfusion w/ episodes of hypotension over last
   3 days, but may be progressing to ATN, no granular Casts on UA
   microscopy.
   -  Continue to trend Cr and avoid nephrotoxins
   -  Renally-dose meds
   # CAD:  The patient has a history of CAD.  Per prior records, CABG in
   [**2183**] with LIMA to LAD, SVG to Diag and SVG to PDA.  Cath at that time
   showed 50% mid-LAD, 70% prox-LAD, 60% D1, 60% D3, 60% LCx, TO of OM3
   and TO of RCA.  Now w/ possible ischemic changes on EKG, but CKs are
   relatively low thus may be [**1-18**] VT, CPR and shocks.
   - Continue a full dose aspirin
   - Restart his B-blocker as above.
   # Hyperglycemia
 Likely sepsis related, pt w/ no hx of DM.  Elevated
   BGs in 200s.
   - Continue Lantus w/ RISS
   FEN: Patient
s diet can be advanced pending speech and swallow recs.
   ACCESS: PIVs, RIJ ([**2194-12-3**]) -> will discuss with ID if nafcillin can
   be changed to a po medication (if so, will pull the RIJ, if not, then
   he will need a PICC and then this can be pulled).
   PROPHYLAXIS:
   -Systemic anticoagulation with coumadin.
   -Pain management with tylenol
   -Bowel regimen
   FAMILY/SOCIAL:
   Family updated on progress and plans.
   CODE: Full, confirmed w/ family.
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-3**] 03:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-12-08 05:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 76 y/o male w/ a hx of CAD s/p CABG, syncope s/p PPM,
   AF who presented with cardiac arrest now warmed after cooling now s/p
   extubation.  Course complicated by VAP.
   24 Hour Events:
 EKG - At [**2194-12-7**] 09:00 AM
 STOOL CULTURE - At [**2194-12-7**] 10:00 AM
 PICC LINE - START [**2194-12-7**] 01:00 PM
 MULTI LUMEN - STOP [**2194-12-7**] 06:15 PM
   Iron studies and haptoglobin unrevealing as cause for anemia.  Got
   Lasix 20mg IV in the morning.  Started on Spironolactone 25mg PO qday
   for diuresis and hypokalemia, started on Metoprolol 6.25mg PO TID.  No
   additional Lasix given in the evening due to rising creatinine.  Got
   40mg K [**Hospital1 **] yesterday.  Heparin stopped as INR therapeutic.  PICC line
   placed for IV abxs (cannot give PO per ID). PT consulted and
   recommended rehab. R IJ removed.  C. Diff negative X 1.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2194-12-5**] 08:00 AM
   Piperacillin - [**2194-12-5**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-12-6**] 08:00 AM
   Tobramycin - [**2194-12-6**] 10:00 AM
   Ciprofloxacin - [**2194-12-7**] 10:19 PM
   Nafcillin - [**2194-12-8**] 05:04 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2194-12-7**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-8**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 75 (75 - 78) bpm
   BP: 120/61(88) {85/33(62) - 121/62(89)} mmHg
   RR: 24 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Height: 76 Inch
    CVP: 20 (11 - 21)mmHg
   Total In:
                                                                  1,295 mL
                                                                    200 mL
   PO:
   TF:
   IVF:
                                                                  1,295 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,880 mL
                                                                    530 mL
   Urine:
                                                                  1,880 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -585 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   GENERAL: Elderly male lying in bed in NAD.
   HEENT: NCAT. PERRL,  2.5mmL, 2mmR, slightly reactive. OP clear
   CARDIAC: RRR, 2/6 SEM at the LLSB.
   LUNGS: Crackles at the bases b/l with a few expiratory wheezes present.
   ABDOMEN: + bowel sounds.  Soft, NTND
   EXTREMITIES: 2+ pitting edema in UEs, warm hands.  Legs warm, dry, 1+
   edema.  . Scar on left leg and arm.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.    Echymotic
   lesions in his upper extremities.
   Neuro: Alert and oriented to person, time, and partially to place.
   CNII-XII grossly intact.  Sensation to light touch intact throughout.
   4+/5 strength in his upper and lower extremities throughout.
   Labs / Radiology
   221 K/uL
   9.0 g/dL
   125 mg/dL
   1.9 mg/dL
   28 mEq/L
   3.8 mEq/L
   33 mg/dL
   100 mEq/L
   137 mEq/L
   24.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2194-12-5**]  05:20 AM
                            [**2194-12-5**]  12:42 PM
                            [**2194-12-6**]  12:08 AM
                            [**2194-12-6**]  05:03 AM
                            [**2194-12-6**]  05:29 AM
                            [**2194-12-6**]  08:09 AM
                            [**2194-12-6**]  08:50 AM
                            [**2194-12-7**]  05:38 AM
                            [**2194-12-7**]  04:18 PM
                            [**2194-12-8**]  04:54 AM
   WBC
   10.1
   8.4
   8.5
   Hct
   23.0
   22.4
   24.5
   Plt
   167
   183
   221
   Cr
   1.2
   1.3
   1.6
   1.9
   TCO2
   28
   26
   27
   26
   26
   27
   Glucose
   178
   114
   125
   Other labs: PT / PTT / INR:43.4/38.2/4.8, CK / CKMB /
   Troponin-T:268/15/0.10, ALT / AST:15/23, Alk Phos / T Bili:45/1.7,
   Differential-Neuts:75.7 %, Lymph:16.7 %, Mono:4.7 %, Eos:2.3 %,
   D-dimer:671 ng/mL, Fibrinogen:847 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:3.0 g/dL, LDH:285 IU/L, Ca++:8.1 mg/dL, Mg++:2.6 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   76 y/o male w/ a hx of CAD s/p CABG, syncope s/p PPM, AF who presented
   with cardiac arrest now s/p cooling and rewarming  and s/p extubation
   with Pseudomonas sepsis and VAP now off pressors.
   # Sepsis:  Pseudomonas on BCx and MSSA in sputum.  Sources include
   Femoral line (pulled [**12-3**]) and Pulmonary w/ VAP.  He was weaned off
   pressors yesterday and his antibiotics were narrowed from tobramycin
   and zosyn to cipro.  Surveillance BCx have been NGTD
   - Continue Nafcillin for MSSA and Cipro for GNRs for total treatment of
   14d, day one [**12-3**].
   - Will touch base with ID to check if nafcillin can be changed to a po
   medication.
   # Congestive heart failure, likely acute on chronic.  Now much more
   volume overloaded on exam, LOS +8.4L.  TTE here showing an EF of 15-20%
   w/ severe systolic and diastolic dysfunction, likely CAD superimposed
   by toxic/metabolic causes.  Prior echo shows EF of 50% from [**2191**] and
   reported 2mo PTA of 25%.  Volume overloaded on exam.  Now that he is
   off pressors and his SBP have been stable, can start diuresis.
   - Will start aldactone 25 mg daily for diuresis (due to his persistent
   hypokalemia) in conjunction with one-time doses of IV lasix prn for a
   goal of 1.5 to 2 L negative/day.
   - Restart Metoprolol 6.25 mg tid.
   - Holding his ACEI given his ARF and recent hypotension.
   - Patient will need a repeat TTE in a few weeks to reassess his cardiac
   function once out of the acute setting of recent cardiac arrest as some
   of his systolic dysfunction is likely from cardiac stunning.
   # Anemia
 The patient
s Hct continues to slowly trend downwards (is
   22.4 today) Likely a combination of dilutional, acute illnees, and
   phlebotomy.   Guiacs negative to date.  No evidence of hemolysis on
   exam or labs.  No evidence of large echymoses.  Will consider
   intraabdominal/RP source eval if continues to drop.   Likely
   hemodilutional give volume expansion, at baseline also ACD given Fe
   studies results.
   - Will recheck hemolysis labs.
   - Qday Hct to minimize phlebotomy unless he appears to be clinically
   bleeding.
   - Will hold off transfusion for now as he is not currently ischemic and
   a transfusion would give additional volume while he is already volume
   overloaded with a low EF.
   # Respiratory Failure: Resolving.  The patient was successfully
   extubated yesterday morning.  He continues on 5 L NC.
   - Continue to treat his VAP with ABx as above.
   - Diuresis as above with IV lasix and aldactone for a goal of 1.5 to 2
   L negative.
   # CARDIAC ARREST:  The differential includes ischemia vs. prior MI and
   scar tissue causing arrhythmia.  EEG consistent w/ encephalopathy
   (toxic/metabolic).  Neuro exam significantly improved.
   - Appreciate neuro recs
   - PT/OT
   - Will likely be a candidate for ICD if EF continues to be depressed
   - Will hold off on catheterization for now as this is unlikely to have
   been ischemic in origin.
   # RHYTHM: Patient now V-paced on tele, but had been in atrial fib. and
   has a history of atrial fibrillation and is on coumadin as an
   outpatient.  His PPM interrogation showed that his cardiac arrest was
   preceded by VF.  Patient received 2 shocks from AED.  INR 3.1.   Goal
   [**1-19**].
   - Continue Amiodarone 400mg [**Hospital1 **] for rhythm control and cardioversion on
   Monday to augment filling.
   - ICD placement to be evaluated
   - Continue coumadin; heparin gtt stopped as he is therapeutic on
   coumadin.
   # ACUTE RENAL FAILURE:  Fluctuating, Cr 1.3 (1.3 yesterday).  Likely
   pre-renal [**1-18**] renal hypoperfusion w/ episodes of hypotension over last
   3 days, but may be progressing to ATN, no granular Casts on UA
   microscopy.
   -  Continue to trend Cr and avoid nephrotoxins
   -  Renally-dose meds
   # CAD:  The patient has a history of CAD.  Per prior records, CABG in
   [**2183**] with LIMA to LAD, SVG to Diag and SVG to PDA.  Cath at that time
   showed 50% mid-LAD, 70% prox-LAD, 60% D1, 60% D3, 60% LCx, TO of OM3
   and TO of RCA.  Now w/ possible ischemic changes on EKG, but CKs are
   relatively low thus may be [**1-18**] VT, CPR and shocks.
   - Continue a full dose aspirin
   - Restart his B-blocker as above.
   # Hyperglycemia
 Likely sepsis related, pt w/ no hx of DM.  Elevated
   BGs in 200s.
   - Continue Lantus w/ RISS
   FEN: Patient
s diet can be advanced pending speech and swallow recs.
   ACCESS: PIVs, RIJ ([**2194-12-3**]) -> will discuss with ID if nafcillin can
   be changed to a po medication (if so, will pull the RIJ, if not, then
   he will need a PICC and then this can be pulled).
   PROPHYLAXIS:
   -Systemic anticoagulation with coumadin.
   -Pain management with tylenol
   -Bowel regimen
   FAMILY/SOCIAL:
   Family updated on progress and plans.
   CODE: Full, confirmed w/ family.
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2194-12-7**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-12-09 05:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt. persistent anemia, Fe studies consistent w/ ACD, no hemolysis.
   Repeat echo showed slightly improved EF to 20-25%, new LV aneurysm at
   inferobasal regions, persistent akinesis at inf and inflateral areas,
   persistent AS, MR [**First Name (Titles) 43**] [**Last Name (Titles) **] TR.  Dialated aortic sinus and ascending
   aorta, 4.3 and 4.5 respectively.
   Cardioversion attempted yesterday for afib, biphasic 200, then 300J w/
   no effect.  Pt. will require 1mo f/u w/ cards and ECHO to assess for
   ICD.  Pt received Lasix 40mg IV for volume overload, Alb was 3.1.  Had
   worsening renal failure, w/ Cr up to 2.1 (PM lytes) from 1.3 in AM of
   [**12-7**], will hold off on further diuresis.  UA showed rare WBC casts and
   pos for Eos, peripheral still pending, FEUrea 37%.  Pt was switched
   from Nafcillin to Cefazolin IV for MSSA in sputum, needs 2 more days.
   IV Cipro was changed to PO (day 1 = [**12-3**], needs total of 14d).  ID
   curbsided, agreed w/ above.
   Spironolactone was d/ced.  Metoprolol increased to 12.5mg PO TID.  INR
   4.8 on 2mg, coumadin d/ced, likely [**1-18**] pt being on amio and cipro.
   PICC line placed, PT consulted and recommended rehab. Pt. w/ frequent
   stools, C. Diff negative X 1, #2 pending.  Can likely go to floor today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2194-12-6**] 08:00 AM
   Tobramycin - [**2194-12-6**] 10:00 AM
   Ciprofloxacin - [**2194-12-8**] 10:00 AM
   Nafcillin - [**2194-12-8**] 04:00 PM
   Cefazolin - [**2194-12-9**] 04:34 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-12-8**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-9**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 79 (74 - 84) bpm
   BP: 126/47(49) {94/39(49) - 129/58(73)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Height: 76 Inch
   Telemetry:
   Total In:
                                                                  1,060 mL
                                                                    170 mL
   PO:
                                                                    360 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    700 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,435 mL
                                                                    740 mL
   Urine:
                                                                  2,435 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,375 mL
                                                                   -570 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   GENERAL: Elderly male lying in bed in NAD.
   HEENT: NCAT. OP clear
   CARDIAC: RRR, [**1-22**] cresendo/decrescendo murmur at the LLSB with minimal
   carotid radiation, [**1-22**] blowing murmur at LSB increased with
   inspiration, and [**1-22**] blowing murmur at apex.
   LUNGS: Crackles at the bases b/l.
   ABDOMEN: + bowel sounds.  Soft, NTND
   EXTREMITIES: 1+ pitting edema in UEs, warm hands.  Legs warm, dry, 1+
   edema.  . Scar on left leg and arm.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.    Echymotic
   lesions in his upper extremities.
   Neuro: Alert and oriented to person, time, and place.  CNII-XII grossly
   intact.  Sensation to light touch intact throughout.  4+/5 strength in
   his upper and lower extremities throughout.
   Labs / Radiology
   237 K/uL
   8.2 g/dL
   121 mg/dL
   2.1 mg/dL
   28 mEq/L
   3.5 mEq/L
   34 mg/dL
   101 mEq/L
   138 mEq/L
   23.2 %
   9.6 K/uL
        [image002.jpg]
                            [**2194-12-6**]  05:03 AM
                            [**2194-12-6**]  05:29 AM
                            [**2194-12-6**]  08:09 AM
                            [**2194-12-6**]  08:50 AM
                            [**2194-12-7**]  05:38 AM
                            [**2194-12-7**]  04:18 PM
                            [**2194-12-8**]  04:54 AM
                            [**2194-12-8**]  05:52 PM
                            [**2194-12-8**]  11:00 PM
                            [**2194-12-9**]  04:21 AM
   WBC
   10.1
   8.4
   8.5
   9.6
   Hct
   23.0
   22.4
   24.5
   23.2
   Plt
   167
   183
   221
   237
   Cr
   1.2
   1.3
   1.6
   1.9
   2.1
   2.1
   TCO2
   26
   26
   27
   Glucose
   178
   114
   125
   160
   131
   121
   Other labs: PT / PTT / INR:40.4/40.1/4.4,
   Differential-Neuts:73.0 %, Band:0.0 %, Lymph:15.0 %, Mono:6.0 %,
   Eos:6.0 %,
   Albumin:3.1 g/dL,
   Ca++:7.9 mg/dL, Mg++:2.6 mg/dL, PO4:3.6 mg/dL
   Rare positive urine eos
   UA unremarkable otherwise.
   ECHO - There is an inferobasal left ventricular aneurysm, new.
   Compared to [**11-29**], LVEF is now 20-25%, the inferior and inferolateral
   akinesis persists. The other segments have slightly better function.
   The other findings - aortic stenosis, mild mitral and at least [**Month/Year (2) **]
   tricuspid regurgitation - are similar.
   Assessment and Plan
   76 y/o male w/ a hx of CAD s/p CABG, syncope s/p PPM, AF who presented
   with cardiac arrest now s/p cooling and rewarming  and s/p extubation
   with Pseudomonas sepsis and VAP now off pressors.
   # Congestive heart failure, likely acute on chronic.  Continues to be
   volume overloaded, w/ diuresis w/ 20mg lasix x 2 with negative 1.3 L.
   LOS +6 L.  TTE here showing slightly improved pumpf function,  EF of
   20-25% w/ severe systolic and diastolic dysfunction, likely CAD
   superimposed by toxic/metabolic causes.  Prior echo shows EF of 50%
   from [**2191**] and reported 2mo PTA of 25%.  Had started Aldactone, but was
   stopped yesterday due to concern of AIN.  Will continue diuresis and
   monitor Cr, now elevated.
   - Continue diuresis with one-time doses of IV lasix prn for a goal of 1
   to 1.5 L negative/day.
   - continue  12.5 mg tid
   - Holding his ACEI given his ARF.
   - restart spironolactone
   - Patient will need a repeat TTE in a few weeks to reassess his cardiac
   function once out of the acute setting of recent cardiac arrest for
   possible ICD placement.
   # RHYTHM: Patient now V-paced on tele, but had been in atrial fib. and
   has a history of atrial fibrillation and is on coumadin as an
   outpatient.  His PPM interrogation showed that his cardiac arrest was
   preceded by VF.  Patient received 2 shocks from AED.  INR 4.4, likely
   elevated [**1-18**] amiodarone and cipro.   Goal [**1-19**].  Attempt at
   cardioversion unsuccessful.
   - continue amioderone
   - schedule for repeat attempt at cardioversion in 3 weeks.
   - ICD placement to be evaluated with possible CRT
   - Hold coumadin until INR at goal
   # ACUTE RENAL FAILURE.  Cr. 2.1, yesterday am was 1.3 and 1.6 in
   afternoon.  Likely pre-renal [**1-18**] diuresis, possible ATN given timing of
   hypotensive episodes last week as well as some contribution from
   Amiodarone.  AIN is also on DDx given
   nafcillin/tobramycin/sprionolactone and rare eos in urine.  Will
   continue to diurese gently today, as expect 3rd space fluid shifts into
   intravascular space w/ resolution of sepsis.
   -  Continue to trend Cr and avoid nephrotoxins
   -  Renally-dose meds
   - d/c
d nafcillin, switched to cefazolin
   # CAD:  The patient has a history of CAD.  Per prior records, CABG in
   [**2183**] with LIMA to LAD, SVG to Diag and SVG to PDA.  Cath at that time
   showed 50% mid-LAD, 70% prox-LAD, 60% D1, 60% D3, 60% LCx, TO of OM3
   and TO of RCA.  Now w/ possible ischemic changes on EKG, but CKs are
   relatively low thus may be [**1-18**] VT, CPR and shocks.   LDL 49.
   - Continue a full dose aspirin
   - Continue B-blocker as above.
   - Continue Simvastatin 10mg QD
   # CARDIAC ARREST:  The differential includes ischemia vs. prior MI and
   scar tissue causing arrhythmia.  EEG consistent w/ encephalopathy
   (toxic/metabolic).  Neuro exam significantly improved.
   - Appreciate neuro recs
   - PT/OT, pt will require rehab.
   - Will likely be a candidate for ICD if EF continues to be depressed
   - No catheterization for now as this is unlikely to have been ischemic
   in origin.
   # Anemia
 The patient
s Hct improved, but still low (24.5 today)
   Likely a combination of dilutional, ACD, and phlebotomy.   Guiacs
   negative to date.  No evidence of hemolysis on exam or labs.  No
   evidence of large echymoses.  At baseline also ACD given Fe studies
   results.
   - Qday Hct to minimize phlebotomy unless he appears to be clinically
   bleeding.
   - No indication for transfusion.
   - start on iron and folate supplementation
   # Sepsis:  Resolved.  Pt w/ Pseudomonas on BCx and MSSA in sputum.
   Femoral line (pulled [**12-3**]) w/ Pseudomonas, and VAP w/ MSSA and
   Enterobacteriae.  Off pressors.  Was on Nafcillin and Cipro IV for
   above organisms, switched to PO cipro and cazolin with concern of AIN.
   Surveillance BCx have been NGTD
   - Continue cefazolin  for MSSA for total of 10 d, day 1 = [**12-1**], today
   is day 9
   - Continue Cipro for GNRs, switched to PO, for total treatment of 14d,
   day one [**12-3**], today is day 7.
   # Respiratory Failure: Resolving.  The patient was successfully
   extubated [**12-6**].  He continues on 4 L NC.
   - Continue to treat his VAP with ABx as above.
   - Diuresis as above with IV lasix and aldactone
   - Wean O2 as tolerated.
   - give incentive spirometry
   # Hyperglycemia
 Likely sepsis related, pt w/ no hx of DM, pt contuing
   w/ elevated BGs in 200s in afternoon and 140s fasting in AM.
   - Increase Lantus and switch to HISS
   FEN: Patient
s diet can be advanced pending speech and swallow recs.
   ACCESS: PIVs, PICC line.
   PROPHYLAXIS:
   -Systemic anticoagulation with coumadin.
   -Pain management with tylenol
   -Bowel regimen
   FAMILY/SOCIAL:
   Family updated on progress and plans daily.
   CODE: Full, confirmed w/ family.
   DISPO: Transfer to floor today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2194-12-7**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: